US05011839
2-Ethyl-4-bromo-5-(2-n-propoxy-1-naphthylmethylamino)-6-amino-3(2H)pyridazinone (Compound No. 49)
530 mg of 2-ethyl-4-bromo-5-(2-n-propoxy-1- naphthylmethylamino)-6-nitro-3(2H)pyridazinone (Compound No. 48) was dissolved in a mixture comprising 50 ml of ethanol and 25 ml of a 10 wt% sodium carbonate aqueous solution. Then, 1.0 g of sodium hydrosulfite was gradually added under stirring, and the mixture was then stirred at room temperature for 2.5 hours. Glacial acetic acid was added to neutralize the reaction solution. Then, the solvent was distilled off under reduced pressure. Water was poured to the residue thus obtained, and the mixture was extracted with chloroform. The extract was washed sequentially with water and with a saturated sodium chloride aqueous solution and then dried over sodium sulfate. Then, the solvent was distilled off to obtain a residual yellowish orange solid substance. This product was purified by silica gel column chromatography by using chloroform and a mixture of chloroform/methanol (volume ratio of 10/1) as developers to obtain 10 mg of colorless crystals. This product was found to show the same behavior on the silica gel thin layer chromatography as the substance obtained in the above method (i), and was identical with it also in NMR, MS and IR spectrum.

reactant | 2-ethyl-4-bromo-5-(2-n-propoxy-1- naphthylmethylamino)-6-nitro-3(2H)pyridazinone | 530 mg | C(C)N1N=C(C(=C(C1=O)Br)NCC1=C(C=CC2=CC=CC=C12)OCCC)[N+](=O)[O-] | C20H21BrN4O4
reactant | sodium hydrosulfite | 1.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 2-Ethyl-4-bromo-5-(2-n-propoxy-1-naphthylmethylamino)-6-amino-3(2H)pyridazinone | 10 mg | C(C)N1N=C(C(=C(C1=O)Br)NCC1=C(C=CC2=CC=CC=C12)OCCC)N | C20H23BrN4O2
